US08895313B2
N-[4-(1,3-Benzothiazol-2-yl)-3-methoxyphenyl]-4-fluoro-3-nitrobenzamide
A mixture of 4-fluoro-3-nitrobenzoic acid (0.062 g, 0.336 mmol) and thionyl chloride (5 ml) was heated under reflux for 2 h. The reaction mixture was cooled to room temperature and the excess reagent was removed under reduced pressure to give the crude acid chloride. The amide was prepared as described in the Amide Coupling section using the crude acid chloride, 2-(4-amino-2-methoxyphenyl)benzothiazole (0.086 g, 0.336 mmol) and Hunig's base (0.052 g, 0.403 mmol) in dry THF (5 ml) to give the title compound (0.105 g, 74%) as a pale yellow solid after work-up.

reactant | 4-fluoro-3-nitrobenzoic acid | 0.336 mmol, 0.062 g | FC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(4-amino-2-methoxyphenyl)benzothiazole | 0.336 mmol, 0.086 g | NC1=CC(=C(C=C1)C=1SC2=C(N1)C=CC=C2)OC | C14H12N2OS
reactant | Hunig's base | 0.403 mmol, 0.052 g | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-[4-(1,3-Benzothiazol-2-yl)-3-methoxyphenyl]-4-fluoro-3-nitrobenzamide | 0.105 g, 74% | S1C(=NC2=C1C=CC=C2)C2=C(C=C(C=C2)NC(C2=CC(=C(C=C2)F)[N+](=O)[O-])=O)OC | C21H14FN3O4S
